US03937838
Example 2. Preparation of 1-(3',5'-dihydroxyphenyl)-2-(t-butylamino)-ethanol and its salts
1.1 g of this salt were dissolved in warm absolute ethanol and 0.1 g 10% palladium charcoal were added. The solution was then hydrogenated at 50°C. and 5 atmospheres pressure overnight. The catalyst was filtered off and the volume of the solution reduced by evaporation. The hydrobromide of 1-(3',5'-diacetoxyphenyl)-2-(t-butylamino)-ethanol with 1 mole of water was precipitated by the addition of ether. M.p. 108°-111°C. The protective acetyl groups may be removed by boiling the 1-(3',5'-diacetoxyphenyl)-2-(t-butylamino)-ethanol hydrobromide with 1% hydrobromic acid for three hours. After evaporation and drying the product was recrystallized as described in Example 2c.

reactant | hydrobromide | Br | BrH
reactant | 1-(3',5'-diacetoxyphenyl)-2-(t-butylamino)-ethanol | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)C(CNC(C)(C)C)O | C16H23NO5
reactant | water | 1 mole | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium charcoal | 0.1 g | [Pd] | Pd
product | 1-(3',5'-dihydroxyphenyl)-2-(t-butylamino)-ethanol | OC=1C=C(C=C(C1)O)C(CNC(C)(C)C)O | C12H19NO3
